### PR TITLE
[Merged by Bors] - feat(NumberTheory/Divisors): divisors antidiagonal tsum

### PR DESCRIPTION
**Pull request by CBirkbeck**
---

- [x] depends on: #27837

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Normed/Module/Basic.lean [hunk 1]
```diff
@@ -71,6 +71,10 @@ theorem norm_natCast_eq_mul_norm_one (α) [SeminormedRing α] [NormSMulClass ℤ
     ‖(n : α)‖ = n * ‖(1 : α)‖ := by
   simpa using norm_intCast_eq_abs_mul_norm_one α n
 
+lemma natCast_norm {𝕜 : Type*} [NontriviallyNormedField 𝕜] [NormSMulClass ℤ 𝕜]
+    (a : ℕ) : ‖(a : 𝕜)‖ = a := by
+  simpa using norm_natCast_eq_mul_norm_one 𝕜 a
```
Comment (loefflerd) [inline Mathlib/Analysis/Normed/Module/Basic.lean]:
```suggestion
@[simp]
lemma norm_natCast (α) [SeminormedRing α] [NormSMulClass ℤ α] [NormOneClass α]
    (n : ℕ) : ‖(n : α)‖ = n := by
  simpa using norm_natCast_eq_mul_norm_one α n
```
This will probably cause `simp can prove this` linter warnings downstream for `Real.norm_natCast` and `Complex.norm_natCast`, which can be solved by removing the simp flags from those lemmas.

File: Mathlib/NumberTheory/ArithmeticFunction.lean [hunk 2]
```diff
@@ -823,6 +823,9 @@ theorem sigma_one_apply_prime_pow {p i : ℕ} (hp : p.Prime) :
     σ 1 (p ^ i) = ∑ k ∈ .range (i + 1), p ^ k := by
   simp [sigma_apply_prime_pow hp]
 
+theorem sigma_eq_sum_div' (k n : ℕ) : sigma k n = ∑ d ∈ Nat.divisors n, (n / d) ^ k := by
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ArithmeticFunction.lean]: why the `'`? there is no `sigma_eq_sum_div` in mathlib.

Comment (CBirkbeck) [reply Mathlib/NumberTheory/ArithmeticFunction.lean]: Huh good question. Fixed now!

File: Mathlib/Analysis/Normed/Module/Basic.lean (hunk 1 above)
Comment (CBirkbeck) [reply Mathlib/Analysis/Normed/Module/Basic.lean]: It didnt seem to  break those simp lemmas, probably due to how the imports are working, they are also tagged with `@[simp 1100]`  which maybe means its ok?

Comment (CBirkbeck) [reply Mathlib/Analysis/Normed/Module/Basic.lean]: Oh I take that back. Something else broke, the RCLIke one!

**Comment by loefflerd** [comment]
Hi Chris,

I think I was talking rubbish earlier about the `norm_natCast` simp lemmas. I think you can just revert the changes in `Mathlib/Analysis/Complex/Exponential.lean`, `Mathlib/Analysis/Complex/Norm.lean`, `Mathlib/Analysis/RCLike/Basic.lean` and `Mathlib/Analysis/Normed/Group/Basic.lean`. I was mistaken in thinking this would somehow conflict with the general simp lemma you're adding in `Mathlib/Analysis/Normed/Module/Basic.lean`. (What I missed is that when the specific `norm_natCast` lemmas for `ℝ`, `ℂ` and an `RCLike` are stated, mathlib doesn't yet know that these types have an `[NormSMulClass ℤ -]` instance, because it is only created later using precisely these lemmas!)

So that was a complete distraction from the actual content of this PR. I hope to have some time to look at this properly either tomorrow, or early next week.

File: Mathlib/NumberTheory/ArithmeticFunction.lean [hunk 3]
```diff
@@ -823,6 +823,9 @@ theorem sigma_one_apply_prime_pow {p i : ℕ} (hp : p.Prime) :
     σ 1 (p ^ i) = ∑ k ∈ .range (i + 1), p ^ k := by
   simp [sigma_apply_prime_pow hp]
 
+theorem sigma_eq_sum_div (k n : ℕ) : sigma k n = ∑ d ∈ Nat.divisors n, (n / d) ^ k := by
+  rw [sigma, ArithmeticFunction.coe_mk, ← Nat.sum_div_divisors]
```
Comment (loefflerd) [inline Mathlib/NumberTheory/ArithmeticFunction.lean]:
```suggestion
  rw [sigma_apply, ← Nat.sum_div_divisors]
```

File: Mathlib/Topology/Algebra/InfiniteSum/Basic.lean [hunk 4]
```diff
@@ -386,6 +386,11 @@ theorem tprod_congr {f g : β → α}
     (hfg : ∀ b, f b = g b) : ∏' b, f b = ∏' b, g b :=
   congr_arg tprod (funext hfg)
 
+@[to_additive]
+theorem tprod_congr2 {f g : γ → β → α}
+    (hfg : ∀ b c, f b c = g b c) : ∏' c, ∏' b, f b c = ∏' c, ∏' b, g b c := by
+  exact tprod_congr fun c ↦ tprod_congr fun b ↦ hfg b c
```
Comment (loefflerd) [inline Mathlib/Topology/Algebra/InfiniteSum/Basic.lean]:
```suggestion
theorem tprod_congr₂ {f g : γ → β → α}
    (hfg : ∀ b c, f b c = g b c) : ∏' c, ∏' b, f b c = ∏' c, ∏' b, g b c :=
  tprod_congr fun c ↦ tprod_congr fun b ↦ hfg b c
```
(seems to be the convention)

File: Mathlib/NumberTheory/TsumDivsorsAntidiagonal.lean [hunk 5]
```diff
@@ -3,17 +3,29 @@ Copyright (c) 2025 Chris Birkbeck. All rights reserved.
...
-import Mathlib.NumberTheory.Divisors
-import Mathlib.Data.PNat.Defs
+import Mathlib.Algebra.Order.Ring.Star
+import Mathlib.Analysis.RCLike.Basic
+import Mathlib.Analysis.SpecificLimits.Normed
+import Mathlib.NumberTheory.ArithmeticFunction
+import Mathlib.RingTheory.LocalRing.Basic
+import Mathlib.Topology.GDelta.MetrizableSpace
+import Mathlib.Topology.Separation.CompletelyRegular
+
```
Comment (loefflerd) [inline Mathlib/NumberTheory/TsumDivsorsAntidiagonal.lean]: These imports look very strange (and I'm puzzled why the `shake` CI step isn't flagging them). This seems to be a minimal set:
```suggestion
import Mathlib.Analysis.SpecificLimits.Normed
import Mathlib.NumberTheory.ArithmeticFunction
```

File: Mathlib/NumberTheory/TsumDivsorsAntidiagonal.lean [hunk 6]
```diff
@@ -49,3 +61,104 @@ lemma sigmaAntidiagonalEquivProd_symm_apply_fst (x : ℕ+ × ℕ+) :
...
+  refine Finset.sum_congr (rfl) fun i hi ↦ ?_
+  have hni : (n / i : ℕ) * (i : ℕ) = n := by
+    simp only [Nat.mem_divisors, ne_eq, PNat.ne_zero, not_false_eq_true, and_true] at *
+    nth_rw 2 [← Nat.div_mul_cancel hi]
+  rw [mul_eq_mul_left_iff, pow_eq_zero_iff', ne_eq]
+  left
+  nth_rw 2 [← hni]
+  ring
+
+lemma tsum_pow_div_one_sub_eq_tsum_sigma {r : 𝕜} (hr : ‖r‖ < 1) :
```
Comment (loefflerd) [inline Mathlib/NumberTheory/TsumDivsorsAntidiagonal.lean]: Is there a reason why you only consider the `k = 1` case (in the notation of the previous lemmas) here? I guess you are focussing on E2, but q-expansions of other Eisenstein series are interesting as well!

(One could be much more general still. This is a special case of the Lambert series identity, https://en.wikipedia.org/wiki/Lambert_series, with `a n = n` and `b n = sigma 1 n`. The ideal scenario would be to prove Lambert for an arbitrary sequence `a n` satisfying the condition that `‖a n‖ * r ^ n -> 0` for all real `r < 1`. That can come in another PR, "the perfect is the enemy of the good" etc; but I doubt that it would be more difficult to consider general powers here.)

File: Mathlib/NumberTheory/TsumDivsorsAntidiagonal.lean [hunk 7]
```diff
@@ -49,3 +61,104 @@ lemma sigmaAntidiagonalEquivProd_symm_apply_fst (x : ℕ+ × ℕ+) :
...
+      rw [mul_assoc, ← pow_succ' (r ^ (n : ℕ)) m]
+    rw [← tsum_pnat_eq_tsum_succ (fun m ↦ n * (r ^ (n : ℕ)) ^ (m : ℕ))]
+  have h00 := (tsum_prod_pow_eq_tsum_sigma 1 hr)
+  rw [Summable.tsum_comm (by apply summable_prod_mul_pow 1 hr)] at h00
+  rw [← h00]
+  apply tsum_congr2
+  intro b c
+  rw [← pow_mul, pow_one, mul_eq_mul_left_iff]
+  left
+  ring
```
Comment (loefflerd) [inline Mathlib/NumberTheory/TsumDivsorsAntidiagonal.lean]:
```suggestion
  exact tsum_congr₂ <| fun b c ↦ by simp [mul_comm b.val c.val, pow_mul]
```

File: Mathlib/NumberTheory/TsumDivsorsAntidiagonal.lean [hunk 8]
```diff
@@ -49,3 +61,104 @@ lemma sigmaAntidiagonalEquivProd_symm_apply_fst (x : ℕ+ × ℕ+) :
...
+  conv =>
+    enter [1,1]
+    ext n
+    rw [div_eq_mul_one_div, one_div, ← this n, ← tsum_mul_left]
+    conv =>
+      enter [1]
+      ext m
+      rw [mul_assoc, ← pow_succ' (r ^ (n : ℕ)) m]
+    rw [← tsum_pnat_eq_tsum_succ (fun m ↦ n * (r ^ (n : ℕ)) ^ (m : ℕ))]
+  have h00 := (tsum_prod_pow_eq_tsum_sigma 1 hr)
```
Comment (loefflerd) [inline Mathlib/NumberTheory/TsumDivsorsAntidiagonal.lean]: style nit: 
```suggestion
  have h00 := tsum_prod_pow_eq_tsum_sigma 1 hr
```

File: Mathlib/NumberTheory/TsumDivsorsAntidiagonal.lean [hunk 9]
```diff
@@ -49,3 +61,104 @@ lemma sigmaAntidiagonalEquivProd_symm_apply_fst (x : ℕ+ × ℕ+) :
...
+  rw [Summable.tsum_comm (by apply summable_prod_mul_pow 1 hr)] at h00
```
Comment (loefflerd) [inline Mathlib/NumberTheory/TsumDivsorsAntidiagonal.lean]: This is the only place you use the lemma `summable_prod_mul_pow`, and you have to make an annoying detour to change the order of summation before you can use it. That (to me) makes me wonder if it might be easier to change the formulation of the lemma, so it matches exactly what you need at the point of use?

File: Mathlib/NumberTheory/TsumDivsorsAntidiagonal.lean [hunk 10]
```diff
@@ -49,3 +61,104 @@ lemma sigmaAntidiagonalEquivProd_symm_apply_fst (x : ℕ+ × ℕ+) :
...
+    one_div] at this
+  conv =>
+    enter [1,1]
+    ext n
+    rw [div_eq_mul_one_div, one_div, ← this n, ← tsum_mul_left]
+    conv =>
+      enter [1]
+      ext m
+      rw [mul_assoc, ← pow_succ' (r ^ (n : ℕ)) m]
+    rw [← tsum_pnat_eq_tsum_succ (fun m ↦ n * (r ^ (n : ℕ)) ^ (m : ℕ))]
```
Comment (loefflerd) [inline Mathlib/NumberTheory/TsumDivsorsAntidiagonal.lean]:
```suggestion
  have (m : ℕ) [NeZero m] := tsum_geometric_of_norm_lt_one (ξ := r ^ m)
    (by simpa using pow_lt_one₀ (by simp) hr (NeZero.ne _))
  simp only [div_eq_mul_inv, ← this, ← tsum_mul_left, mul_assoc, ← _root_.pow_succ',
    ← fun (n : ℕ) ↦ tsum_pnat_eq_tsum_succ (fun m ↦ n * (r ^ n) ^ m)]
```

File: Mathlib/NumberTheory/TsumDivsorsAntidiagonal.lean [hunk 11]
```diff
@@ -3,17 +3,29 @@ Copyright (c) 2025 Chris Birkbeck. All rights reserved.
...
+import Mathlib.Topology.Separation.CompletelyRegular
+
 
 /-!
 # Lemmas on infinite sums over the antidiagonal of the divisors function
 
 This file contains lemmas about the antidiagonal of the divisors function. It defines the map from
 `Nat.divisorsAntidiagonal n` to `ℕ+ × ℕ+` given by sending `n = a * b` to `(a, b)`.
 
+We then prove some identities about the infinite sums over this antidiagonal, such as
```
Comment (loefflerd) [inline Mathlib/NumberTheory/TsumDivsorsAntidiagonal.lean:15]: I'd mention the words "Lambert series" here somewhere (so anyone searching the docs will find it).

File: Mathlib/NumberTheory/TsumDivsorsAntidiagonal.lean [hunk 12]
```diff
@@ -49,3 +61,104 @@ lemma sigmaAntidiagonalEquivProd_symm_apply_fst (x : ℕ+ × ℕ+) :
...
+
+section tsum
+
+variable {𝕜 : Type*} [NontriviallyNormedField 𝕜] [CompleteSpace 𝕜] [NormSMulClass ℤ 𝕜]
+
+omit [NormSMulClass ℤ 𝕜] in
+lemma summable_norm_pow_mul_geometric_div_one_sub (k : ℕ) {r : 𝕜} (hr : ‖r‖ < 1) :
+    Summable fun n : ℕ ↦ n ^ k * r ^ n / (1 - r ^ n) := by
+  rw [show (fun n : ℕ ↦ n ^ k * r ^ n / (1 - r ^ n)) =
+    fun n : ℕ ↦ (n ^ k * r ^ n) * (1 / (1 - r ^ n)) by grind]
```
Comment (loefflerd) [inline Mathlib/NumberTheory/TsumDivsorsAntidiagonal.lean]:
```suggestion
  simp only [div_eq_mul_one_div ( _ * _ ^ _)]
```

File: Mathlib/NumberTheory/TsumDivsorsAntidiagonal.lean [hunk 13]
```diff
@@ -49,3 +61,104 @@ lemma sigmaAntidiagonalEquivProd_symm_apply_fst (x : ℕ+ × ℕ+) :
...
+  apply summable_mul_tendsto_const (c := 1 / (1 - 0))
+    (by simpa using (summable_norm_pow_mul_geometric_of_norm_lt_one k hr))
```
Comment (loefflerd) [inline Mathlib/NumberTheory/TsumDivsorsAntidiagonal.lean]: style nit (it's lean, not Lisp!)
```suggestion
    (by simpa using summable_norm_pow_mul_geometric_of_norm_lt_one k hr)
```

File: Mathlib/NumberTheory/TsumDivsorsAntidiagonal.lean [hunk 14]
```diff
@@ -49,3 +61,104 @@ lemma sigmaAntidiagonalEquivProd_symm_apply_fst (x : ℕ+ × ℕ+) :
...
+  rw [Nat.cofinite_eq_atTop]
+  have : Tendsto (fun n : ℕ ↦ 1 - r ^ n) atTop (𝓝 (1 - 0)) :=
+    Filter.Tendsto.sub (by simp) (tendsto_pow_atTop_nhds_zero_of_norm_lt_one hr)
+  have h1 : Tendsto (fun n : ℕ ↦ (1 : 𝕜)) atTop (𝓝 1) := by simp only [tendsto_const_nhds_iff]
+  apply (Filter.Tendsto.div h1 this (by simp)).congr
+  simp
```
Comment (loefflerd) [inline Mathlib/NumberTheory/TsumDivsorsAntidiagonal.lean]:
```suggestion
  simpa only [Nat.cofinite_eq_atTop] using
   tendsto_const_nhds.div ((tendsto_pow_atTop_nhds_zero_of_norm_lt_one hr).const_sub 1) (by simp)
```
(it's strange that `Tendsto.const_div` doesn't exist)

File: Mathlib/NumberTheory/TsumDivsorsAntidiagonal.lean [hunk 15]
```diff
@@ -49,3 +61,104 @@ lemma sigmaAntidiagonalEquivProd_symm_apply_fst (x : ℕ+ × ℕ+) :
...
+
+theorem summable_divisorsAntidiagonal_aux (k : ℕ) {r : 𝕜} (hr : ‖r‖ < 1) :
+    Summable fun c : (n : ℕ+) × {x // x ∈ (n : ℕ).divisorsAntidiagonal} ↦
+    (c.2.1).1 ^ k * (r ^ (c.2.1.2 * c.2.1.1)) := by
+  apply Summable.of_norm
+  rw [summable_sigma_of_nonneg]
+  constructor
+  · exact fun n ↦ (hasSum_fintype _).summable
+  · simp only [norm_mul, norm_pow, tsum_fintype, Finset.univ_eq_attach]
+    · apply Summable.of_nonneg_of_le (f := fun c : ℕ+ ↦ ‖(c : 𝕜) ^ (k + 1) * r ^ (c : ℕ)‖)
```
Comment (loefflerd) [inline Mathlib/NumberTheory/TsumDivsorsAntidiagonal.lean]: there is only one goal here, so the focus dot and indent are unnecessary

File: Mathlib/NumberTheory/TsumDivsorsAntidiagonal.lean [hunk 16]
```diff
@@ -49,3 +61,104 @@ lemma sigmaAntidiagonalEquivProd_symm_apply_fst (x : ℕ+ × ℕ+) :
...
+      intro b
+      apply le_trans (b := ∑ _ ∈ (b : ℕ).divisors, ‖(b : 𝕜)‖ ^ k * ‖r ^ (b : ℕ)‖)
+      · rw [Finset.sum_attach ((b : ℕ).divisorsAntidiagonal) (fun x ↦
+            ‖(x.1 : 𝕜)‖ ^ (k : ℕ) * ‖r‖ ^ (x.2 * x.1)), Nat.sum_divisorsAntidiagonal
+            ((fun x y ↦ ‖(x : 𝕜)‖ ^ k * ‖r‖ ^ (y * x))) (n := b)]
+        gcongr <;> rename_i i hi <;> simp at *
+        · exact Nat.le_of_dvd b.2 hi
+        · apply le_of_eq
+          nth_rw 2 [← Nat.mul_div_cancel' hi]
+          ring_nf
```
Comment (loefflerd) [inline Mathlib/NumberTheory/TsumDivsorsAntidiagonal.lean]: You have a non-terminal simp here, which needs to be fixed. This is the best I can find:
```suggestion
        gcongr with i hi
        · simpa using le_of_dvd b.2 (dvd_of_mem_divisors hi)
        · rw [Nat.div_mul_cancel (dvd_of_mem_divisors hi), norm_pow]
```

File: Mathlib/NumberTheory/TsumDivsorsAntidiagonal.lean [hunk 17]
```diff
@@ -49,3 +61,104 @@ lemma sigmaAntidiagonalEquivProd_symm_apply_fst (x : ℕ+ × ℕ+) :
...
+theorem summable_divisorsAntidiagonal_aux (k : ℕ) {r : 𝕜} (hr : ‖r‖ < 1) :
+    Summable fun c : (n : ℕ+) × {x // x ∈ (n : ℕ).divisorsAntidiagonal} ↦
+    (c.2.1).1 ^ k * (r ^ (c.2.1.2 * c.2.1.1)) := by
+  apply Summable.of_norm
+  rw [summable_sigma_of_nonneg]
+  constructor
+  · exact fun n ↦ (hasSum_fintype _).summable
+  · simp only [norm_mul, norm_pow, tsum_fintype, Finset.univ_eq_attach]
+    · apply Summable.of_nonneg_of_le (f := fun c : ℕ+ ↦ ‖(c : 𝕜) ^ (k + 1) * r ^ (c : ℕ)‖)
+        (fun b ↦ Finset.sum_nonneg (fun _ _ ↦ by apply mul_nonneg (by simp) (by simp))) ?_
```
Comment (loefflerd) [inline Mathlib/NumberTheory/TsumDivsorsAntidiagonal.lean]:
```suggestion
        (fun b ↦ Finset.sum_nonneg (fun _ _ ↦ mul_nonneg (by simp) (by simp))) (fun b ↦ ?_)
```
& kill the `intro` below

File: Mathlib/NumberTheory/TsumDivsorsAntidiagonal.lean [hunk 18]
```diff
@@ -49,3 +61,104 @@ lemma sigmaAntidiagonalEquivProd_symm_apply_fst (x : ℕ+ × ℕ+) :
...
+        (by apply (summable_norm_pow_mul_geometric_of_norm_lt_one (k + 1) hr).subtype)
+      intro b
+      apply le_trans (b := ∑ _ ∈ (b : ℕ).divisors, ‖(b : 𝕜)‖ ^ k * ‖r ^ (b : ℕ)‖)
+      · rw [Finset.sum_attach ((b : ℕ).divisorsAntidiagonal) (fun x ↦
+            ‖(x.1 : 𝕜)‖ ^ (k : ℕ) * ‖r‖ ^ (x.2 * x.1)), Nat.sum_divisorsAntidiagonal
+            ((fun x y ↦ ‖(x : 𝕜)‖ ^ k * ‖r‖ ^ (y * x))) (n := b)]
```
Comment (loefflerd) [inline Mathlib/NumberTheory/TsumDivsorsAntidiagonal.lean]:
```suggestion
    · rw [(b : ℕ).divisorsAntidiagonal.sum_attach (fun x ↦ ‖(x.1 : 𝕜)‖ ^ _ * _ ^ (x.2 * x.1)),
          sum_divisorsAntidiagonal ((fun x y ↦ ‖(x : 𝕜)‖ ^ k * _ ^ (y * x)))]
```

File: Mathlib/NumberTheory/TsumDivsorsAntidiagonal.lean [hunk 19]
```diff
@@ -49,3 +61,104 @@ lemma sigmaAntidiagonalEquivProd_symm_apply_fst (x : ℕ+ × ℕ+) :
...
+  apply Summable.of_norm
+  rw [summable_sigma_of_nonneg]
+  constructor
+  · exact fun n ↦ (hasSum_fintype _).summable
+  · simp only [norm_mul, norm_pow, tsum_fintype, Finset.univ_eq_attach]
+    · apply Summable.of_nonneg_of_le (f := fun c : ℕ+ ↦ ‖(c : 𝕜) ^ (k + 1) * r ^ (c : ℕ)‖)
+        (fun b ↦ Finset.sum_nonneg (fun _ _ ↦ by apply mul_nonneg (by simp) (by simp))) ?_
+        (by apply (summable_norm_pow_mul_geometric_of_norm_lt_one (k + 1) hr).subtype)
+      intro b
+      apply le_trans (b := ∑ _ ∈ (b : ℕ).divisors, ‖(b : 𝕜)‖ ^ k * ‖r ^ (b : ℕ)‖)
```
Comment (loefflerd) [inline Mathlib/NumberTheory/TsumDivsorsAntidiagonal.lean]:
```suggestion
      transitivity ∑ _ ∈ (b : ℕ).divisors, ‖(b : 𝕜)‖ ^ k * ‖r ^ (b : ℕ)‖
```

File: Mathlib/NumberTheory/TsumDivsorsAntidiagonal.lean [hunk 20]
```diff
@@ -49,3 +61,104 @@ lemma sigmaAntidiagonalEquivProd_symm_apply_fst (x : ℕ+ × ℕ+) :
...
+            ((fun x y ↦ ‖(x : 𝕜)‖ ^ k * ‖r‖ ^ (y * x))) (n := b)]
+        gcongr <;> rename_i i hi <;> simp at *
+        · exact Nat.le_of_dvd b.2 hi
+        · apply le_of_eq
+          nth_rw 2 [← Nat.mul_div_cancel' hi]
+          ring_nf
+      · simp only [norm_pow, Finset.sum_const, nsmul_eq_mul, ← mul_assoc, add_comm k 1, pow_add,
+          pow_one, norm_mul]
+        gcongr
+        simpa  using (Nat.card_divisors_le_self b)
```
Comment (loefflerd) [inline Mathlib/NumberTheory/TsumDivsorsAntidiagonal.lean]: style nit:
```suggestion
        simpa using Nat.card_divisors_le_self b
```

File: Mathlib/NumberTheory/TsumDivsorsAntidiagonal.lean [hunk 21]
```diff
@@ -49,3 +61,104 @@ lemma sigmaAntidiagonalEquivProd_symm_apply_fst (x : ℕ+ × ℕ+) :
...
+    Filter.Tendsto.sub (by simp) (tendsto_pow_atTop_nhds_zero_of_norm_lt_one hr)
+  have h1 : Tendsto (fun n : ℕ ↦ (1 : 𝕜)) atTop (𝓝 1) := by simp only [tendsto_const_nhds_iff]
+  apply (Filter.Tendsto.div h1 this (by simp)).congr
+  simp
+
+theorem summable_divisorsAntidiagonal_aux (k : ℕ) {r : 𝕜} (hr : ‖r‖ < 1) :
+    Summable fun c : (n : ℕ+) × {x // x ∈ (n : ℕ).divisorsAntidiagonal} ↦
+    (c.2.1).1 ^ k * (r ^ (c.2.1.2 * c.2.1.1)) := by
+  apply Summable.of_norm
+  rw [summable_sigma_of_nonneg]
```
Comment (loefflerd) [inline Mathlib/NumberTheory/TsumDivsorsAntidiagonal.lean]:
```suggestion
  rw [summable_sigma_of_nonneg (fun a ↦ by positivity)]
```

File: Mathlib/NumberTheory/TsumDivsorsAntidiagonal.lean [hunk 22]
```diff
@@ -49,3 +61,104 @@ lemma sigmaAntidiagonalEquivProd_symm_apply_fst (x : ℕ+ × ℕ+) :
...
+        · exact Nat.le_of_dvd b.2 hi
+        · apply le_of_eq
+          nth_rw 2 [← Nat.mul_div_cancel' hi]
+          ring_nf
+      · simp only [norm_pow, Finset.sum_const, nsmul_eq_mul, ← mul_assoc, add_comm k 1, pow_add,
+          pow_one, norm_mul]
+        gcongr
+        simpa  using (Nat.card_divisors_le_self b)
+  · intro a
+    simpa using mul_nonneg (by simp) (by simp)
```
Comment (loefflerd) [inline Mathlib/NumberTheory/TsumDivsorsAntidiagonal.lean]:
```suggestion
```

File: Mathlib/Analysis/RCLike/Basic.lean [hunk 23]
```diff
@@ -611,7 +611,7 @@ theorem ratCast_im (q : ℚ) : im (q : K) = 0 := by rw [← ofReal_ratCast, ofRe
 theorem norm_of_nonneg {r : ℝ} (h : 0 ≤ r) : ‖(r : K)‖ = r :=
   (norm_ofReal _).trans (abs_of_nonneg h)
 
-@[simp, rclike_simps, norm_cast]
+@[simp 1100, rclike_simps, norm_cast]
```
Comment (CBirkbeck) [inline Mathlib/Analysis/RCLike/Basic.lean:614]:
```suggestion
@[simp, rclike_simps, norm_cast]
```

File: Mathlib/Analysis/Normed/Group/Basic.lean [hunk 24]
```diff
@@ -1081,7 +1081,7 @@ theorem norm_of_nonpos (hr : r ≤ 0) : ‖r‖ = -r :=
 theorem le_norm_self (r : ℝ) : r ≤ ‖r‖ :=
   le_abs_self r
 
-@[simp 1100] lemma norm_natCast (n : ℕ) : ‖(n : ℝ)‖ = n := abs_of_nonneg n.cast_nonneg
+lemma norm_natCast (n : ℕ) : ‖(n : ℝ)‖ = n := abs_of_nonneg n.cast_nonneg
```
Comment (CBirkbeck) [inline Mathlib/Analysis/Normed/Group/Basic.lean:1084]:
```suggestion

@[simp 1100] lemma norm_natCast (n : ℕ) : ‖(n : ℝ)‖ = n := abs_of_nonneg n.cast_nonneg
```

File: Mathlib/Analysis/Complex/Norm.lean [hunk 25]
```diff
@@ -125,7 +125,7 @@ protected theorem norm_of_nonneg {r : ℝ} (h : 0 ≤ r) : ‖(r : ℂ)‖ = r :
 @[simp, norm_cast]
 lemma nnnorm_real (r : ℝ) : ‖(r : ℂ)‖₊ = ‖r‖₊ := by ext; exact norm_real _
 
-@[simp 1100, norm_cast]
+@[norm_cast]
```
Comment (CBirkbeck) [inline Mathlib/Analysis/Complex/Norm.lean:107]:
```suggestion
@[simp 1100, norm_cast]
```

File: Mathlib/Analysis/Complex/Norm.lean [hunk 26]
```diff
@@ -135,7 +135,7 @@ lemma norm_ofNat (n : ℕ) [n.AtLeastTwo] :
 protected lemma norm_two : ‖(2 : ℂ)‖ = 2 := norm_ofNat 2
 
 @[simp 1100, norm_cast]
-lemma nnnorm_natCast (n : ℕ) : ‖(n : ℂ)‖₊ = n := Subtype.ext <| by simp
+lemma nnnorm_natCast (n : ℕ) : ‖(n : ℂ)‖₊ = n := Subtype.ext <| by simp [norm_natCast]
```
Comment (CBirkbeck) [inline Mathlib/Analysis/Complex/Norm.lean:117]:
```suggestion
lemma nnnorm_natCast (n : ℕ) : ‖(n : ℂ)‖₊ = n := Subtype.ext <| by simp
```

File: Mathlib/Analysis/Complex/Exponential.lean [hunk 27]
```diff
@@ -457,7 +457,7 @@ lemma norm_exp_sub_sum_le_exp_norm_sub_sum (x : ℂ) (n : ℕ) :
     rw [sum_range_sub_sum_range hj, sum_range_sub_sum_range hj]
     refine (IsAbsoluteValue.abv_sum norm ..).trans_eq ?_
     congr with i
-    simp [Complex.norm_pow]
+    simp [Complex.norm_pow, Complex.norm_natCast]
```
Comment (CBirkbeck) [inline Mathlib/Analysis/Complex/Exponential.lean:458]:
```suggestion
    simp [Complex.norm_pow]
```

File: Mathlib/NumberTheory/TsumDivsorsAntidiagonal.lean (hunk 6 above)
Comment (CBirkbeck) [reply Mathlib/NumberTheory/TsumDivsorsAntidiagonal.lean]: Yes so I had only added the k=1 version since this particular form was only needed for E2. The general q-expansions PR #27606 didnt actually need this, which is why it wasnt as general. But you are right that its no harder to prove it in general, so I've done that.

File: Mathlib/NumberTheory/TsumDivsorsAntidiagonal.lean (hunk 9 above)
Comment (CBirkbeck) [reply Mathlib/NumberTheory/TsumDivsorsAntidiagonal.lean]: So `summable_prod_mul_pow` is was used in 3 places in this PR and more in the later PRs, but I looked ahead and overall the "symm" version is used more so I changed it to that. But that didn't really make this proof shorter without changing `tsum_prod_pow_eq_tsum_sigma` which I do want to keep in this form for later use.

**Comment by CBirkbeck** [comment]
> I think I was talking rubbish earlier about the `norm_natCast` simp lemmas. I think you can just revert the changes in `Mathlib/Analysis/Complex/Exponential.lean`, `Mathlib/Analysis/Complex/Norm.lean`, `Mathlib/Analysis/RCLike/Basic.lean` and `Mathlib/Analysis/Normed/Group/Basic.lean`. I was mistaken in thinking this would somehow conflict with the general simp lemma you're adding in `Mathlib/Analysis/Normed/Module/Basic.lean`. (What I missed is that when the specific `norm_natCast` lemmas for `ℝ`, `ℂ` and an `RCLike` are stated, mathlib doesn't yet know that these types have an `[NormSMulClass ℤ -]` instance, because it is only created later using precisely these lemmas!)
> 
> So that was a complete distraction from the actual content of this PR. I hope to have some time to look at this properly either tomorrow, or early next week.

Hmm well the build was failing at the RCLike file, so that one does need changing. I think it does break at the other places as well, but I'll see if it builds first before changing them. Edit: Yep it breaks without this.

**Comment by loefflerd** [comment]
> Hmm well the build was failing at the RCLike file, so that one does need changing. I think it does break at the other places as well, but I'll see if it builds first before changing them. Edit: Yep it breaks without this.

I'm surprised. I made #29386, which is a fork of this PR, so I can play around with the simp-tagging changes. I will experiment & get back to you.

**Comment by loefflerd** [comment]
... and it genuinely doesn't work. Looks like I was actually correct first time around in guessing that the simp lemmas would need corrective action downstream. OK, I believe now that the current state of this PR is the Right Thing.

File: Mathlib/Analysis/Asymptotics/Lemmas.lean [hunk 28]
```diff
@@ -672,6 +672,15 @@ lemma Asymptotics.IsBigO.comp_summable_norm {ι E F : Type*}
   summable_of_isBigO hg <| hf.norm_norm.comp_tendsto <|
     tendsto_zero_iff_norm_tendsto_zero.2 hg.tendsto_cofinite_zero
 
+lemma summable_mul_tendsto_const {F ι : Type*} [NontriviallyNormedField F] [CompleteSpace F]
```
Comment (loefflerd) [inline Mathlib/Analysis/Asymptotics/Lemmas.lean]: If you name this as `Summable.mul_xxx` then you can dot-notate on it.

File: Mathlib/Analysis/Asymptotics/Lemmas.lean [hunk 29]
```diff
@@ -672,6 +672,15 @@ lemma Asymptotics.IsBigO.comp_summable_norm {ι E F : Type*}
...
+    {f g : ι → F} (hf : Summable fun n => ‖f n‖) {c : F} (hg : Tendsto g cofinite (𝓝 c)) :
+    Summable fun n : ι ↦ f n * g n := by
+  apply summable_of_isBigO hf
+  have h0 : g =O[cofinite] fun _x ↦ (1 : F) := by
+    apply Filter.Tendsto.isBigO_one
+    exact hg
+  simpa using ((Asymptotics.isBigO_const_mul_self 1 f cofinite).mul h0)
```
Comment (loefflerd) [inline Mathlib/Analysis/Asymptotics/Lemmas.lean]:
```suggestion
    [NormedRing F] [NormMulClass F] [NormOneClass F] [CompleteSpace F]
    {f g : ι → F} (hf : Summable fun n ↦ ‖f n‖) {c : F} (hg : Tendsto g cofinite (𝓝 c)) :
    Summable fun n ↦ f n * g n := by
  apply summable_of_isBigO hf
  simpa using (isBigO_const_mul_self 1 f _).mul (hg.isBigO_one F)
```

File: Mathlib/Analysis/Normed/Module/Basic.lean [hunk 30]
```diff
@@ -71,6 +71,11 @@ theorem norm_natCast_eq_mul_norm_one (α) [SeminormedRing α] [NormSMulClass ℤ
     ‖(n : α)‖ = n * ‖(1 : α)‖ := by
   simpa using norm_intCast_eq_abs_mul_norm_one α n
 
+@[simp]
+lemma norm_natCast {𝕜 : Type*} [NontriviallyNormedField 𝕜] [NormSMulClass ℤ 𝕜]
```
Comment (loefflerd) [inline Mathlib/Analysis/Normed/Module/Basic.lean]: I think you can weaken the typeclass assumptions substantially (`SeminormedRing` and `NormOneClass` should be sufficient).

File: Mathlib/NumberTheory/TsumDivsorsAntidiagonal.lean [hunk 31]
```diff
@@ -3,17 +3,24 @@ Copyright (c) 2025 Chris Birkbeck. All rights reserved.
...
+import Mathlib.NumberTheory.ArithmeticFunction
 
 /-!
 # Lemmas on infinite sums over the antidiagonal of the divisors function
 
 This file contains lemmas about the antidiagonal of the divisors function. It defines the map from
 `Nat.divisorsAntidiagonal n` to `ℕ+ × ℕ+` given by sending `n = a * b` to `(a, b)`.
 
+We then prove some identities about the infinite sums over this antidiagonal, such as
+`∑' n : ℕ+, n ^ k * r ^ (n : ℕ) / (1 - r ^ (n : ℕ)) = ∑' n : ℕ+, σ k n * r ^ (n : ℕ)`
```
Comment (loefflerd) [inline Mathlib/NumberTheory/TsumDivsorsAntidiagonal.lean]:
```suggestion
`∑' n : ℕ+, n ^ k * r ^ n / (1 - r ^ n) = ∑' n : ℕ+, σ k n * r ^ n`
```
(I think it's allowable to slightly distort statements in module-level docstrings for readability).

File: Mathlib/NumberTheory/TsumDivsorsAntidiagonal.lean [hunk 32]
```diff
@@ -49,3 +56,78 @@ lemma sigmaAntidiagonalEquivProd_symm_apply_fst (x : ℕ+ × ℕ+) :
...
+    (fun (x : ℕ × ℕ) ↦ (x.2 : 𝕜) ^ k * r ^ (x.1 * x.2)), Nat.sum_divisorsAntidiagonal
+    (fun x y ↦ (y : 𝕜) ^ k * r ^ (x * y)), Finset.sum_mul]
+  refine Finset.sum_congr (rfl) fun i hi ↦ ?_
+  have hni : (n / i : ℕ) * (i : ℕ) = n := by
+    simp only [Nat.mem_divisors, ne_eq, PNat.ne_zero, not_false_eq_true, and_true] at *
+    nth_rw 2 [← Nat.div_mul_cancel hi]
+  rw [mul_eq_mul_left_iff, pow_eq_zero_iff', ne_eq]
+  left
+  nth_rw 2 [← hni]
+  ring
```
Comment (loefflerd) [inline Mathlib/NumberTheory/TsumDivsorsAntidiagonal.lean]:
```suggestion
theorem tsum_prod_pow_eq_tsum_sigma (k : ℕ) {r : 𝕜} (hr : ‖r‖ < 1) :
    ∑' d : ℕ+, ∑' c : ℕ+, c ^ k * r ^ (d * c : ℕ) = ∑' e : ℕ+, σ k e * r ^ (e : ℕ) := by
  suffices ∑' c : ℕ+ × ℕ+, c.2 ^ k * r ^ (c.1 * c.2 : ℕ) =
    ∑' e : ℕ+, σ k e * r ^ (e : ℕ) by rwa [← (summable_prod_mul_pow k hr).tsum_prod]
  simp only [← sigmaAntidiagonalEquivProd.tsum_eq, sigmaAntidiagonalEquivProd,
    divisorsAntidiagonalFactors, PNat.mk_coe, Equiv.coe_fn_mk, sigma_eq_sum_div, cast_sum,
    cast_pow, Summable.tsum_sigma (summable_divisorsAntidiagonal_aux k hr)]
  refine tsum_congr fun n ↦ ?_
  simpa [tsum_fintype, Finset.sum_mul,
    (n : ℕ).divisorsAntidiagonal.sum_attach fun x : ℕ × ℕ ↦ x.2 ^ k * r ^ (x.1 * x.2), 
    sum_divisorsAntidiagonal fun x y ↦ y ^ k * r ^ (x * y)]
      using Finset.sum_congr rfl fun i hi ↦ by rw [Nat.mul_div_cancel' (dvd_of_mem_divisors hi)]
```

File: Mathlib/NumberTheory/TsumDivsorsAntidiagonal.lean [hunk 33]
```diff
@@ -49,3 +56,78 @@ lemma sigmaAntidiagonalEquivProd_symm_apply_fst (x : ℕ+ × ℕ+) :
...
+omit [NormSMulClass ℤ 𝕜] in
+lemma summable_norm_pow_mul_geometric_div_one_sub (k : ℕ) {r : 𝕜} (hr : ‖r‖ < 1) :
+    Summable fun n : ℕ ↦ n ^ k * r ^ n / (1 - r ^ n) := by
+  simp only [div_eq_mul_one_div ( _ * _ ^ _)]
+  apply summable_mul_tendsto_const (c := 1 / (1 - 0))
+    (by simpa using summable_norm_pow_mul_geometric_of_norm_lt_one k hr)
+  simpa only [Nat.cofinite_eq_atTop] using
+   tendsto_const_nhds.div ((tendsto_pow_atTop_nhds_zero_of_norm_lt_one hr).const_sub 1) (by simp)
+
+theorem summable_divisorsAntidiagonal_aux (k : ℕ) {r : 𝕜} (hr : ‖r‖ < 1) :
```
Comment (loefflerd) [inline Mathlib/NumberTheory/TsumDivsorsAntidiagonal.lean]: The statement of this lemma (with `c.2.1.2` etc) is a bit off-putting. Do you intend to re-use it other than in `summable_prod_mul_pow`? If not, please make it private or inline it in the proof of that lemma (with a `suffices` perhaps).

**Review by loefflerd — COMMENTED** [review]
I think this is pretty much ready now. Some of the lemmas maybe don't look "natural" in their statements but this is probably inevitable for an early stage of a large multi-PR project.

maintainer delegate

**Comment by riccardobrasca** [comment]
Thanks!

bors d+
